US06686381B2
[2-(3-Amino-propylamino)-thiazol-5-yl]-o-tolyl-methanone
339 mg {3-[5-(2-Methyl-benzoyl)-thiazol-2-ylamino]-propyl}-carbamic acid tert-butyl ester was added to a solution of 25% aqueous hydrochloric acid in dioxane. The mixture was stirred 1 h at room temperature and maintained overnight in the refrigerator. The mixture was poured into saturated aqueous sodium bicarbonate solution (50 ml). The organics were extracted with dichloromethane (3×50 ml), dried over magnesium sulfate and evaporated under reduced pressure to afford the title compound as yellow foam (254 mg) which was used without further purification.

reactant | {3-[5-(2-Methyl-benzoyl)-thiazol-2-ylamino]-propyl}-carbamic acid tert-butyl ester | 339 mg | C(C)(C)(C)OC(NCCCNC=1SC(=CN1)C(C1=C(C=CC=C1)C)=O)=O | C19H25N3O3S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | [2-(3-Amino-propylamino)-thiazol-5-yl]-o-tolyl-methanone | 254 mg | NCCCNC=1SC(=CN1)C(=O)C1=C(C=CC=C1)C | C14H17N3OS
